US08541588B2
3-Cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (Preparation 65, 43.6 mg, 0.154 mmol), tert-butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate (Preparation 873, 50.0 mg, 0.128 mmol) and potassium carbonate (53 mg, 0.38 mmol) in dimethyl sulfoxide (1 mL, 10 mmol) was stirred at 100° C. for 16 hours. The reaction mixture was cooled to ambient temperature and poured into saturated aqueous ammonium chloride. The aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the crude intermediate, tert-butyl 4-[4-(5-chloro-2-{2-cyano-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]phenoxy}phenyl)pyrimidin-2-yl]piperazine-1-carboxylate, as a yellow solid. Trifluoroacetic acid (300 uL, 4 mmol) was added to a solution of tert-butyl 4-[4-(5-chloro-2-{2-cyano-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]phenoxy}phenyl)pyrimidin-2-yl]piperazine-1-carboxylate (83 mg, 0.154 mmol) in methylene chloride (2.9 mL, 46 mmol). After 1 hour, the reaction mixture was concentrated in vacuo. The residue was purified by reverse-phase HPLC to afford the product as a white solid (trifluoroacetic acid salt, 36 mg, 51%).

reactant | 3-Cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 0.154 mmol, 43.6 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC1=NC=NS1 | C9H5FN4O2S2
reactant | tert-butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate | 0.128 mmol, 50.0 mg | ClC=1C=CC(=C(C1)C1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C19H23ClN4O3
reactant | potassium carbonate | 0.38 mmol, 53 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 10 mmol, 1 mL | CS(=O)C | C2H6OS
reactant | ammonium chloride | [Cl-].[NH4+]
product | tert-butyl 4-[4-(5-chloro-2-{2-cyano-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]phenoxy}phenyl)pyrimidin-2-yl]piperazine-1-carboxylate | ClC=1C=CC(=C(C1)C1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)OC1=C(C=C(C=C1)S(=O)(=O)NC1=NC=NS1)C#N | C28H27ClN8O5S2
